US07390805B2
Step 9.1: 4-[4-((R)-1-Phenyl-ethylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-benzoic acid ethyl ester
1.8 g (6 mmol) 4-(4-chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-benzoic acid ethyl ester (WO 97/02266) are suspended in 40 ml n-butanol and treated with 1.5 ml (12 mmol) (R)-phenethylamine. The mixture is heated to 145° C. under stirring. After 3 h a clear brown solution is obtained which is treated with a second portion of (R)-phenethylamine (0.75 ml, 6 mmol). After stirring for additional 2 h the reaction mixture is cooled in an ice bath and the title compound filtered and washed with cold n-butanol and ether; m.p. 288-290° C.; MS-ES+: (M+H)+=387.

reactant | 4-(4-chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-benzoic acid ethyl ester | 6 mmol, 1.8 g | C(C)OC(C1=CC=C(C=C1)C1=CC2=C(N=CN=C2Cl)N1)=O | C15H12ClN3O2
solvent | n-butanol | 40 ml | C(CCC)O | C4H10O
product | 4-[4-((R)-1-Phenyl-ethylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)C1=CC2=C(N=CN=C2N[C@H](C)C2=CC=CC=C2)N1)=O | C23H22N4O2
